US06555570B2
(2E)-5-(tert-Butyloxycarbonylamino)-5-methylhex-2-enoic acid (0.19 g; 0.783 mmol) was dissolved in methylene chloride (10 ml). 1-Hydroxy-7-azabenzotriazole (0.12 g; 0.861 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.17 g; 0.900 mmol) was added and the reaction mixture was stirred 15 min at room temperature. N-[2-(2-Fluorophenyl)-1-methylcarbamoylethyl]-N-methyl-2-methylamino-3-(2-naphthyl)propionamide (0.33 g; 0.783 mmol) and diisopropyl ethylamine (0.15 ml; 0.861 mmol) was added and the reaction mixture was stirred 12 hours at room temperature. Methylene chloride (50 ml) was added and the reaction mixture was washed with water (50 ml), sodium hydrogen sulfate (10%; 50 ml), sodium hydrogen carbonate (sat; 50 ml), water (50 ml) and dried (magnesium sulfate). The solvent was removed in vacuo to afford 0.366 g of {4-[(1-{[2-(2-Fluorophenyl)-1-methylcarbamoylethyl]methylcarbamoyl}-2-(2-naphthyl)ethyl)methylcarbamoyl]-1,1-dimethyl-but-3-enyl}carbamic acid tert-butyl ester. {4-[(1-{[2-(2-Fluorophenyl)-1-methylcarbamoylethyl]methylcarbamoyl}-2-(2-naphthyl)ethyl)methylcarbamoyl]-1,1-dimethyl-but-3-enyl}carbamic acid tert-butyl ester (0.36 g; 0.557 mmol) was dissolved in methylene chloride (3 ml). Trifluoro acetic acid (3 ml) was added and the reaction mixture was stirred 5 min at room temperature. Methylene chloride (25 ml), sodium hydrogen carbonate/sodium carbonate (3 ml) and sodium hydrogen carbonate (s) was added until pH=8. The organic phase was dried (magnesium sulfate) and the solvent was removed in vacuo. The residue was lyophylised to afford 0.237 9 of the title compound.

reactant | (2E)-5-(tert-Butyloxycarbonylamino)-5-methylhex-2-enoic acid | 0.783 mmol, 0.19 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.861 mmol, 0.12 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.900 mmol, 0.17 g | Cl.CN(CCCN=C=NCC)C
reactant | N-[2-(2-Fluorophenyl)-1-methylcarbamoylethyl]-N-methyl-2-methylamino-3-(2-naphthyl)propionamide | 0.783 mmol, 0.33 g | FC1=C(C=CC=C1)CC(C(NC)=O)N(C(C(CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C25H28FN3O2
reactant | diisopropyl ethylamine | 0.861 mmol, 0.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | {4-[(1-{[2-(2-Fluorophenyl)-1-methylcarbamoylethyl]methylcarbamoyl}-2-(2-naphthyl)ethyl)methylcarbamoyl]-1,1-dimethyl-but-3-enyl}carbamic acid tert-butyl ester | 0.366 g | C(C)(C)(C)OC(NC(CC=CC(N(C)C(CC1=CC2=CC=CC=C2C=C1)C(N(C)C(CC1=C(C=CC=C1)F)C(NC)=O)=O)=O)(C)C)=O | C37H47FN4O5
